US08378095B2
To a stirred mixture of 2-(4-bromophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.114 g, 0.4 mmol) and potassium carbonate (0.060 g, 0.43 mmol) in DMF (3 mL) was added tert-Butyl 1-piperazinecarboxylate (0.071 g, 0.4 mmol) and the resulting reaction mixture stirred at room temperature for 2 hours. The solvent was removed in vacuo and the crude tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)piperazine-1-carboxylate obtained was used without further purification. LCMS (1) Rt: 2.56 min; m/z (ES+) 403.

reactant | 2-(4-bromophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.4 mmol, 0.114 g | BrC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C12H16BBrO2
reactant | potassium carbonate | 0.43 mmol, 0.060 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-Butyl 1-piperazinecarboxylate | 0.4 mmol, 0.071 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)piperazine-1-carboxylate | CC1(OB(OC1(C)C)C1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C | C22H35BN2O4
